US08871361B2
2-Bromo-5-methoxybenzonitrile (1.32 g, 6.23 mmol), 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.36 g, 6.23 mmol), bis(triphenylphosphine)palladiumdichloride (0.437 g, 0.623 mmol) and potassium phosphate monohydrate (4.30 g, 18.68 mmol) were added to toluene (30 mL) and water (3 mL). The reaction mixture was degassed with bubbled nitrogen gas for 30 minutes before being refluxed under nitrogen for 15 h. After cooling, the reaction mixture was filtered through Celite® and the organic layer was extracted with ethyl acetate. After removal of the solvents, the crude material was triturated with 40 mL of DCM followed by 50 mL of hexanes to give 8-methoxyphenanthridin-6-amine (0.95 g, 68%) as a light yellow solid. The product was confirmed by GC/MS and NMR.

reactant | 2-Bromo-5-methoxybenzonitrile | 6.23 mmol, 1.32 g | BrC1=C(C#N)C=C(C=C1)OC | C8H6BrNO
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 6.23 mmol, 1.36 g | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | potassium phosphate monohydrate | 18.68 mmol, 4.30 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladiumdichloride | 0.623 mmol, 0.437 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
product | 8-methoxyphenanthridin-6-amine | 0.95 g, 68% | COC1=CC2=C(N=C3C=CC=CC3=C2C=C1)N | C14H12N2O
